US04306097
5-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3,4-dimethyl-2-cyclohexen-1-one
Following the procedure of Example 1, 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-methoxy-6-methyl-2-cyclohexen-1-one is reacted via the Grignard reaction with methyl magnesium iodide to give the title compound.

reactant | 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-methoxy-6-methyl-2-cyclohexen-1-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(=CC(C1C)=O)OC | C30H40O3
reactant | methyl magnesium iodide | C[Mg]I
product | 5-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3,4-dimethyl-2-cyclohexen-1-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1C(C(=CC(C1)=O)C)C | C30H40O2
